US06001847
Trans-2-butyl-5-phenyl-5,6,11,11a-tetrahydro-1H-imidazo[1',5':1,6]pyrido[3,4-b]indole-1,3(2H)-dione
The same method as employed in the preparation of Example 1 but starting from trans methyl 1,2,3,4-tetrahydro-1-phenyl-9H-pyrido[3,4-b]indole-3-carboxylate and butyl isocyanate gave after recrystallisation from 2-propanol, the title compound as white crystals m.p.:240-243° C.

reactant | trans methyl 1,2,3,4-tetrahydro-1-phenyl-9H-pyrido[3,4-b]indole-3-carboxylate | C1(=CC=CC=C1)[C@@H]1N[C@H](CC2=C1NC1=CC=CC=C21)C(=O)OC | C19H18N2O2
reactant | butyl isocyanate | C(CCC)N=C=O | C5H9NO
product | Trans-2-butyl-5-phenyl-5,6,11,11a-tetrahydro-1H-imidazo[1',5':1,6]pyrido[3,4-b]indole-1,3(2H)-dione | C(CCC)N1C(N2[C@H](C=3NC=4C=CC=CC4C3C[C@H]2C1=O)C1=CC=CC=C1)=O | C23H23N3O2
